US05179203
To a solution of acetonitrile (100 ml) were added 6-chloro-acetyl-3,4-dihydro-2(1H)-quinolinone (6.7 g) and ethoxythiocarbonylhydrazine (5.4 g) and the mixture was stirred for 2 hours, cooled and then filtered off. The filtrate was recrystallized from dimethylformamide (30 ml) and water (10 ml) to obtain pale yellow 6-(3,6-dihydro-2-oxo-2H-1,3,4-thiadiazin-5-yl)-3,4-dihydro-2(1H)-quinolinone (5.2 g), melting at 271°-272° C. (decomposition).

reactant | 6-chloro-acetyl-3,4-dihydro-2(1H)-quinolinone | 6.7 g | ClC=1C=C2CCC(N(C2=CC1)C(C)=O)=O | C11H10ClNO2
reactant | ethoxythiocarbonylhydrazine | 5.4 g | C(C)OC(=S)NN | C3H8N2OS
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 6-(3,6-dihydro-2-oxo-2H-1,3,4-thiadiazin-5-yl)-3,4-dihydro-2(1H)-quinolinone | 5.2 g | O=C1SCC(=NN1)C=1C=C2CCC(NC2=CC1)=O | C12H11N3O2S
